US07304081B2
Step 3. 4,4-dimethyl-1-oxa-7-azaspiro[4.4]nonan-2-one hydrochloride
tert-Butyl 4,4-dimethyl-2-oxo-1-oxa-7-azaspiro[4.4]nonane-7-carboxylate (0.20 g, 0.00074 mol) was treated with hydrogen chloride in 1,4-dioxane (4.00 M, 5.00 mL) at rt for 2 h. The volatiles were removed in-vacuo and the resultant HCl salt was used directly in the next step without further purification. LCMS (M+H) 170.2.

reactant | tert-Butyl 4,4-dimethyl-2-oxo-1-oxa-7-azaspiro[4.4]nonane-7-carboxylate | 0.00074 mol, 0.20 g | CC1(CC(OC12CN(CC2)C(=O)OC(C)(C)C)=O)C | C14H23NO4
reactant | hydrogen chloride | Cl | ClH
solvent | 1,4-dioxane | 4.00 M, 5.00 mL | O1CCOCC1 | C4H8O2
product | 4,4-dimethyl-1-oxa-7-azaspiro[4.4]nonan-2-one hydrochloride | Cl.CC1(CC(OC12CNCC2)=O)C | InChI=1S/C9H15NO2.ClH/c1-8(2)5-7(11)12-9(8)3-4-10-6-9;/h10H,3-6H2,1-2H3;1H
